US04182624
20.3 g of benzhydryl chloride were added dropwise to a suspension of 18.4 g (0.1 mol) of 4,5-dimethoxycarbonyl-imidazole in 60 cc of acetonitrile and 14 cc of triethylamine and the reaction mixture was heated for 8 hours at 80° C. The solvent was then removed under reduced pressure and triethylammonium chloride was separated by washing with water. 30 g (85% of the theory) of 1-benzhydryl-4,5-dimethoxycarbonyl-imidazole, m.p. 93° C., were obtained.

reactant | benzhydryl chloride | 20.3 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)Cl | C13H11Cl
reactant | 4,5-dimethoxycarbonyl-imidazole | 0.1 mol, 18.4 g | COC(=O)C=1N=CNC1C(=O)OC | C7H8N2O4
solvent | acetonitrile | 60 cc | C(C)#N | C2H3N
solvent | triethylamine | 14 cc | C(C)N(CC)CC | C6H15N
product | 1-benzhydryl-4,5-dimethoxycarbonyl-imidazole | C(C1=CC=CC=C1)(C1=CC=CC=C1)N1C=NC(=C1C(=O)OC)C(=O)OC | C20H18N2O4
